US06015868
To a stirred solution of 15.02 g (103 mmoles) of (+/-)-2-methyl-1-indanone in 200 mL of anhydrous diethyl ether at -78° C. under an argon atmosphere was injected 50 mL of a 3.0 M methylMgl solution in ether (150 mmoles MeMgl). The reaction was allowed to slowly warm to room temperature over three hours and then it was heated at 35° C. for 1 hour. The reaction was poured into 1L of water, and concentrated HCl was slowly added until a pH of 1 was achieved. The mixture was transferred to a separatory funnel and shaken vigorously. The layers were separated, and the aqueous layer was extracted with ether. The combined organic layers were washed with water (1×500 mL), with aqueous NaHCO3 (1×500 mL), and with saturated aqueous NaCl (1×500 mL). The organic layer was dried over anhydrous MgSO4 and filtered. GC showed that some alcohol was still present so the mixture was stirred with approximately 100 ml of 10 weight percent aqueous HCl for 1 hour. The mixture was transferred to a separatory funnel, and the layers were separated. The organic phase was washed with water (1×200 mL), with aqueous NaHCO3 (1×300 mL), and with saturated aqueous NaCl (1×250 mL). Drying over MgSO4 followed by filtration and solvent removal yielded 14.7 g (99 percent) of 1,2-Dimethylindene.

reactant | (+/-)-2-methyl-1-indanone | 103 mmoles, 15.02 g | CC1C(C2=CC=CC=C2C1)=O | C10H10O
reactant | water | O | H2O
reactant | HCl | Cl | ClH
reactant | diethyl ether | 200 mL | C(C)OCC | C4H10O
reactant | ether | 150 mmoles | CCOCC | C4H10O
product | 1,2-Dimethylindene | 14.7 g, 99 percent | CC1C(=CC2=CC=CC=C12)C | C11H12
